US06329397B1
To a solution of 1-(4-benzyloxy-benzenesulfonyl)-5-methoxy-piperidine-2-carboxylic acid allyloxy-amide (0.090 g, 0.20 mmol), triethylammonium formate (0.28 mL of a 3M solution in water, 0.83 mmol) and acetonitrile (1.1 mL) was added tetrakistriphenylphosphine palladium. After stirring for 15 min at 80° C., the mixture was cooled to room temperature and concentrated in vacuo. The residue was diluted with ether and extracted 2× into 1 M NaOH. The combined aqueous layers were washed 2× with ether, acidified with 1M HCl and extracted 3× with ethyl acetate. The combined organic layers were dried over Na2SO4, filtered and concentrated. Purification of the residue by silica gel chromatography eluting with ethyl acetate afforded 0.025 g of 1-(4-benzyloxy-benzenesulfonyl)-5-methoxy-piperidine-2-carboxylic acid hydroxyamide as a yellow solid after trituration from CH2Cl2-hexane:

reactant | 1-(4-benzyloxy-benzenesulfonyl)-5-methoxy-piperidine-2-carboxylic acid allyloxy-amide | 0.20 mmol, 0.090 g | C(C=C)ONC(=O)C1N(CC(CC1)OC)S(=O)(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C23H28N2O6S
reactant | triethylammonium formate | C(=O)[O-].C(C)[NH+](CC)CC
reactant | acetonitrile | 1.1 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-(4-benzyloxy-benzenesulfonyl)-5-methoxy-piperidine-2-carboxylic acid hydroxyamide | 0.025 g | ONC(=O)C1N(CC(CC1)OC)S(=O)(=O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C20H24N2O6S
